US05646149
Preparation of 6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman.
Acetic anhydride (135 mL) was added dropwise to a solution of 6-hydroxy-2-methoxy-2,5,7,8-tetramethylchroman (71.8 g, 303.85 mmol) in pyridine (90 mL) which was cooled by an ice/water bath. After the addition was complete, the reaction mixture was allowed to warm to ambient temperature. After stirring at ambient temperature for 18 h, the reaction mixture was added to 1 L of ice water. This mixture was allowed to stir for 2 h and was then extracted with diethyl ether (3×200 mL). The combined organics were washed with 2N HCl (200 mL), brine (200 mL), saturated sodium bicarbonate (200 mL) and brine (200 mL). The organic solution was dried (sodium sulfate) and concentrated in vacuo to give 74.11 g (87% crude yield) of a yellow solid which was used crude in the next reaction.

reactant | Acetic anhydride | 135 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-hydroxy-2-methoxy-2,5,7,8-tetramethylchroman | 303.85 mmol, 71.8 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C14H20O3
solvent | pyridine | 90 mL | N1=CC=CC=C1 | C5H5N
product | 6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C16H22O4
